US07276505B2
Preparation of N-[(dimethylamino)propyl]-4-(3-oxo-1,3-dihydro-2H-pyrazolo[4,3-c]cinnolin-2-yl)benzamide
4-(3-oxo-1,3-dihydro-2H-pyrazolo[4,3-c]cinnolin-2-yl)benzoic acid (25 mg, 0.08 mmol) was mixed with DMF (1 ml). Diisopropylethylamine (21 mg, 28 μl, 0.16 mmol) and 3-dimethylaminopropylamine (8.2 mg, 10.0 μl, 0.09 mmol) were added followed by HBTU (30.3 mg, 0.08 mmol). The mixture was stirred at room temperature for 2 h. The product was purified by preparative HPLC. The title compound was isolated as a red solid (12.6 mg, 0.032 mmol, 40%). LCMS: m/z 391 [M+H]+.

reactant | 4-(3-oxo-1,3-dihydro-2H-pyrazolo[4,3-c]cinnolin-2-yl)benzoic acid | 0.08 mmol, 25 mg | O=C1N(NC2=C1N=NC=1C=CC=CC21)C2=CC=C(C(=O)O)C=C2 | C16H10N4O3
reactant | Diisopropylethylamine | 0.16 mmol, 28 μl, 21 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-dimethylaminopropylamine | 0.09 mmol, 10.0 μl, 8.2 mg | CN(CCCN)C | C5H14N2
reactant | HBTU | 0.08 mmol, 30.3 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | N-[(dimethylamino)propyl]-4-(3-oxo-1,3-dihydro-2H-pyrazolo[4,3-c]cinnolin-2-yl)benzamide | CN(C)CCCNC(C1=CC=C(C=C1)N1NC2=C(N=NC=3C=CC=CC23)C1=O)=O | C21H22N6O2
